US07947685B2
Step: 3-(5-Chloro-pyridin-3-ylamino)-6-methyl-pyrazine-2-carboxylic acid (2-methyl-pyridin-4-yl)-amide
The title compound, MS: m/e=355.1 (M+H+), was prepared in accordance with the general method of example 4, step 2 from 3-bromo-6-methyl-pyrazine-2-carboxylic acid (2-methyl-pyridin-4-yl)-amide and 5-chloropyridine-3-amine.

reactant | 3-bromo-6-methyl-pyrazine-2-carboxylic acid (2-methyl-pyridin-4-yl)-amide | CC1=NC=CC(=C1)NC(=O)C1=NC(=CN=C1Br)C | C12H11BrN4O
reactant | 5-chloropyridine-3-amine | ClC=1C=C(C=NC1)N | C5H5ClN2
product | 3-(5-Chloro-pyridin-3-ylamino)-6-methyl-pyrazine-2-carboxylic acid (2-methyl-pyridin-4-yl)-amide | CC1=NC=CC(=C1)NC(=O)C1=NC(=CN=C1NC=1C=NC=C(C1)Cl)C | C17H15ClN6O
